US20010018525A1
step 4 (2-Benzoyl-4,6-dibromobenzofuran-5-yloxy)acetic acid
The title compound was prepared as an off white solid (0.060 g, 88%) from (2-benzoyl-4,6-dibromobenzofuran-5-yloxy)acetic acid methyl ester using a procedure similar to step 2 of Example 36, mp 179-181° C.; 1H NMR (DMSO-d6) δ4.54 (s, 2H), 7.58 (d, J=0.88 Hz, 1H), 7.60-7.65 (m, 2H), 7.74 (tt, J=1.3, 6.8 Hz, 1H), 7.99-8.03 (m, 2H), 8.31 (d, J=0.88 Hz, 1H), 12.98-13.32 (bs, 1H); IR (KBr) 3420, 3080, 2910, 2580, 1740, 1645, 1610, 1540, 1440, 1410, 1330, 1290, 1250, 1175, 1125, 1070, 1000, 970, 915, 860, 800, 715, and 675 cm−1; mass spectrum [(−) ESI], m/z 451 (M−H)−; Anal. Calcd. for C17H10Br2O5: C, 44.97; H, 2.22; N, 0.00, Found: C, 44.71; H, 2.13; N, 0.04.

reactant | (2-benzoyl-4,6-dibromobenzofuran-5-yloxy)acetic acid methyl ester | COC(COC=1C(=CC2=C(C=C(O2)C(C2=CC=CC=C2)=O)C1Br)Br)=O | C18H12Br2O5
reactant | KBr | [K+].[Br-]
product | (2-Benzoyl-4,6-dibromobenzofuran-5-yloxy)acetic acid | C(C1=CC=CC=C1)(=O)C=1OC2=C(C1)C(=C(C(=C2)Br)OCC(=O)O)Br | C17H10Br2O5
